US03975443
A solution of 1-[1-(p-nitrobenzamidomethyl) cyclohexyl]piperidine hydrochloride (2 g.) in water (20 ml) was made alkaline with 5N NaOH and the suspension extracted with chloroform (3 × 30 ml.). The combined chloroform extracts were dried (anhyd. Na2SO4) and evaporated to give a yellow solid (1.7 g.). To a stirred solution of this in ethanol (100 ml) containing Raney Nickel in suspension was added dropwise a solution of hydrazine hydrate (5 ml) in ethanol (5 ml) over 30 mins. The suspension was stirred for a further 31/2 hrs., the suspension was heated to boiling for 30 mins. and filtered through Hyflo. The filtrate was evaporated to dryness and the white solid which formed was crystallised from benzene to give 1-[1-(p-aminobenzamidomethyl) cyclohexyl]piperidine (0.95 g. 50%), m.p. 160-163°.

reactant | 1-[1-(p-nitrobenzamidomethyl) cyclohexyl]piperidine hydrochloride | 2 g | Cl.[N+](=O)([O-])C1=CC=C(C(=O)NCC2(CCCCC2)N2CCCCC2)C=C1
reactant | NaOH | 5N | [OH-].[Na+]
reactant | hydrazine hydrate | 5 ml | O.NN
solvent | water | 20 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Raney Nickel | [Ni] | Ni
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-[1-(p-aminobenzamidomethyl) cyclohexyl]piperidine | 0.95 g, 50% | NC1=CC=C(C(=O)NCC2(CCCCC2)N2CCCCC2)C=C1 | C19H29N3O
